US07064124B2
N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-phenoxybenzoyl]-1,2,3,4-tetrahydroquinoline
1,2,3,4-Tetrahydroquinoline (0.049 g, 0.367 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.105 g, 0.550 mmol) were added to a methylene chloride solution (10 ml) of 5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-phenoxybenzoic acid (0.075 g, 0.183 mmol) and the resulting solution was stirred at room temperature for 12 hours. The reaction solution was poured into ice water and then extracted with methylene chloride. The extract was washed with water and then dried, and the solvent was removed by distillation. The obtained residue was purified by preparative thin-layer chromatography (chloroform:methanol=9:1) to obtain the titled compound (0.050 g, 0.0955 mmol, 52%).

reactant | 1,2,3,4-Tetrahydroquinoline | 0.367 mmol, 0.049 g | N1CCCC2=CC=CC=C12 | C9H11N
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.550 mmol, 0.105 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-phenoxybenzoic acid | 0.183 mmol, 0.075 g | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)O)C1)OC1=CC=CC=C1)C)=O | C23H20O7
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-phenoxybenzoyl]-1,2,3,4-tetrahydroquinoline | 0.0955 mmol, 0.050 g, 52% | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)N2CCCC3=CC=CC=C23)C1)OC1=CC=CC=C1)C)=O | C32H29NO6
